US04562213
2.37 Grams of 3-bromo-4-fluorobenzyl 2,2-dimethyl-2-(4-ethoxyphenyl)ethyl ether, 0.95 g of potassium carbonate, 1.01 g of acetanilide, 10 ml of dimethylformamide and 250 mg of cuprous chloride were mixed and stirred at 140° C. for 40 hours in a nitrogen stream. The reaction mixture was poured into ice water and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous sodium chloride liquor, and after removing the solvent by evaporation, the residual oil was dissolved in a 20% ethanol solution of potassium hydroxide (2 times by mole) and refluxed for 30 minutes. The reaction solution was then poured into ice water and extracted with ether. The ether layer was washed with an aqueous sodium chloride liquor and dried over anhydrous magnesium sulfate, and the solvent was removed by evaporation. The residual oil was separation-purified by column chromatography on silica gel to obtain 1.05 g of 3-anilino-4-fluorobenzyl 2,2-dimethyl-2-(4-ethoxyphenyl)ethyl ether.

reactant | 3-bromo-4-fluorobenzyl 2,2-dimethyl-2-(4-ethoxyphenyl)ethyl ether | CC(COCC1=CC(=C(C=C1)F)Br)(C1=CC=C(C=C1)OCC)C | C19H22BrFO2
reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetanilide | 1.01 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-anilino-4-fluorobenzyl 2,2-dimethyl-2-(4-ethoxyphenyl)ethyl ether | 1.05 g | CC(COCC1=CC(=C(C=C1)F)NC1=CC=CC=C1)(C1=CC=C(C=C1)OCC)C | C25H28FNO2
